US07173004B2
2(S)-tert-butoxycarbonylamino-8-nonenoic acid (purchased from RSP Amino Acids)(1.0 g, 3.68 mmol) dissolved in 100 mL of DMF was treated sequentially with 1-{[4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester, bis hydrochloride (1.46 g, 3.68 mmol), N-methyl morpholine (1.4 mL, 12.9 mmol), and HATU (PE biosystems) (1.68 g, 4.42 mmol). The reaction mixture was stirred at rt under N2 for 24 h, and then concentrated in vacuo. The residue was partitioned between ethyl acetate and pH 4 buffer (biphthalate). The organic phase was washed with sat. aq. NaHCO3, dried (MgSO4), and concentrated in vacuo to give 2.2 g of the crude product. Flash chromatography (20–50% ethyl acetate/hexane) gave 1.9 g (79%) of 1-{[1-(2-tert-butoxycarbonylamino-non-8-enoyl)-4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester as a glassy colorless solid:

reactant | 2(S)-tert-butoxycarbonylamino-8-nonenoic acid | 3.68 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC=C | C14H25NO4
reactant | 1-{[4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester, bis hydrochloride | 3.68 mmol, 1.46 g | Cl.Cl.C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1NCC(C1)OC1=NC=CC2=CC=CC=C12
reactant | N-methyl morpholine | 12.9 mmol, 1.4 mL | CN1CCOCC1 | C5H11NO
reactant | HATU | 4.42 mmol, 1.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-{[1-(2-tert-butoxycarbonylamino-non-8-enoyl)-4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester | 1.9 g, 79% | C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1N(CC(C1)OC1=NC=CC2=CC=CC=C12)C(C(CCCCCC=C)NC(=O)OC(C)(C)C)=O | C36H48N4O7
